US05972951
4-Bromo-3-methylbenzaldehyde oxime
A solution of 4-bromo-3-methylbenzaldehyde (D80) (1 g; 0.005 mol) in methanol (20 ml) was treated with hydroxylamine hydrochloride (700 mg, 0.01 mol) and the mixture stood at room temperature over a weekend. The solvent was evaporated under reduced pressure and the residual solid was partitioned between saturated K2CO3 solution and ethyl acetate. The organic phase was dried (Na2SO4), concentrated in vacuo and the residue purified by chromatography on silica gel eluting with 60-80 petroleum-ether and ethyl acetate, to afford the title compound as a pale pink powder (693 mg, 20%).

reactant | 4-bromo-3-methylbenzaldehyde | 0.005 mol, 1 g | BrC1=C(C=C(C=O)C=C1)C | C8H7BrO
reactant | hydroxylamine hydrochloride | 0.01 mol, 700 mg | Cl.NO
solvent | methanol | 20 ml | CO | CH4O
product | 4-Bromo-3-methylbenzaldehyde oxime | 693 mg, 20% | BrC1=C(C=C(C=NO)C=C1)C | C8H8BrNO
